US09278950B2
Step 6. 3-{[(Benzyloxy)carbonyl]amino}-6-fluoro-7-vinylquinoline-2-carboxylic acid
To a screw-cap vial equipped with a magnetic stir bar, ethyl 3-{[(benzyloxy)carbonyl]amino}-7-bromo-6-fluoroquinoline-2-carboxylate (252.8 mg, 0.5652 mmol), chloro(2-dicyclohexylphosphino-2′,4′,6′-triisopropyl-1,1′-biphenyl)[2-(2′-amino-1,1′-biphenyl)]palladium(II) (Aldrich, 22.8 mg, 0.0289 mmol) and K3PO4 (392.6 mg, 1.850 mmol) were added. The vial was sealed with a Teflon®-lined septum, and was then evacuated and backfilled with nitrogen three times. A solution of vinylboronic acid pinacol ester (146.9 mg, 0.9538 mmol) in 1,4-dioxane (4.0 mL) was added via a syringe, followed by deoxygenated water (2.0 mL). The resulting mixture was heated at 90° C. for 1 h, then allowed to cool to room temperature. Water (50 mL) was added followed by AcOH (379 mg, 6.32 mmol) to adjust the pH to 5. The mixture was extracted with EtOAc (3×50 mL). The combined organic extract was washed with brine (100 mL), dried over Na2SO4 and concentrated under reduced pressure. The resulting residue was purified by flash chromatography on silica gel (0-10% MeOH in DCM) to give the sub-title compound as a yellow solid (153.2 mg, 74%). LCMS calc. for C20H16FN2O4 (M+H)+: m/z=367.1. found 367.1.

reactant | ethyl 3-{[(benzyloxy)carbonyl]amino}-7-bromo-6-fluoroquinoline-2-carboxylate | 0.5652 mmol, 252.8 mg | C(C1=CC=CC=C1)OC(=O)NC=1C(=NC2=CC(=C(C=C2C1)F)Br)C(=O)OCC | C20H16BrFN2O4
reactant | K3PO4 | 1.850 mmol, 392.6 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | vinylboronic acid pinacol ester | 0.9538 mmol, 146.9 mg | C(=C)B1OC(C)(C)C(C)(C)O1 | C8H15BO2
reactant | AcOH | 6.32 mmol, 379 mg | CC(=O)O | C2H4O2
solvent | 1,4-dioxane | 4.0 mL | O1CCOCC1 | C4H8O2
catalyst | chloro(2-dicyclohexylphosphino-2′,4′,6′-triisopropyl-1,1′-biphenyl)[2-(2′-amino-1,1′-biphenyl)]palladium(II) | 0.0289 mmol, 22.8 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=CC(=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C.C1=CC=C([C-]=C1)C2=CC=CC=C2N.Cl[Pd+]
product | 3-{[(Benzyloxy)carbonyl]amino}-6-fluoro-7-vinylquinoline-2-carboxylic acid | 153.2 mg, 74% | C(C1=CC=CC=C1)OC(=O)NC=1C(=NC2=CC(=C(C=C2C1)F)C=C)C(=O)O | C20H15FN2O4
